US06472416B1
6-(4-(Aminosulphonyl)phenyl)-2-cyano-7-(4-Fluorophenyl)-3-methyl-pyrazolo[5,1-b][1,3]oxazole
The desired compound was prepared according to the method of Example 54C, substituting 5-(4-(aminosulphonyl)phenyl)-4-(4-fluorophenyl)-3-hydroxypyrazole prepared according to the method of Example 55C in place of 4-(4-fluorophenyl)-3-hydroxy-5-(4-(methylsulphonyl)phenyl)pyrazole (yield: 35 mg, 13%). MP 231-232° C.; MS (APCI+) m/z 397 (M+H)+; (APCI−) m/z 395 (M−H)−, 431 (M+Cl)−; 1H NMR (300 MHz, DMSO-d6) δ2.65 (s, 3H), 7.30 (m, 4H), 7.47 (s, 2H), 7.67 (d, J=9 Hz, 2H), 7.88 (d, J=9 Hz, 2H); Anal. calc. for C19H13FN4O3S.1.5 H2O: C, 53.89; H, 3.80; N, 13.23. Found: C, 53.82; H, 3.93; N, 11.38.

reactant | 5-(4-(aminosulphonyl)phenyl)-4-(4-fluorophenyl)-3-hydroxypyrazole | NS(=O)(=O)C1=CC=C(C=C1)C1=C(C(=NN1)O)C1=CC=C(C=C1)F | C15H12FN3O3S
reactant | 4-(4-fluorophenyl)-3-hydroxy-5-(4-(methylsulphonyl)phenyl)pyrazole | yield: 35 mg | FC1=CC=C(C=C1)C=1C(=NNC1C1=CC=C(C=C1)S(=O)(=O)C)O | C16H13FN2O3S
solvent | H2O | O | H2O
product | 6-(4-(Aminosulphonyl)phenyl)-2-cyano-7-(4-Fluorophenyl)-3-methyl-pyrazolo[5,1-b][1,3]oxazole | NS(=O)(=O)C1=CC=C(C=C1)C1=NN2C(OC(=C2C)C#N)=C1C1=CC=C(C=C1)F | C19H13FN4O3S
